US05994376
A solution of 1-[3-(cyclopentyloxy)-4-methoxyphenyl]ethanone oxime (15.3 g) in methanol/ammonia (350 ml) was hydrogenated for 3 hours with Raney nickel (3 g) as a catalyst. After uptake of H2, the catalyst was filtered off, washed with methanol and the filtrate was evaporated. Toluene was added and azeotroped on the rotary evaporator, yielding 14.45 g (100%) of (±)-3-(cyclopentyloxy)-4-methoxy-α-methylbenzene-methanamine (interm. 5).

reactant | 1-[3-(cyclopentyloxy)-4-methoxyphenyl]ethanone oxime | 15.3 g | C1(CCCC1)OC=1C=C(C=CC1OC)C(C)=NO | C14H19NO3
solvent | methanol ammonia | 350 ml | CO.N
catalyst | Raney nickel | 3 g | [Ni] | Ni
product | (±)-3-(cyclopentyloxy)-4-methoxy-α-methylbenzene-methanamine | 14.45 g, 100% | C1(CCCC1)OC=1C=C(C=CC1OC)C(N)C | C14H21NO2
